US07932272B2
5-(4-Chloro-phenoxy)-furan-2-carbaldehyde
To a solution of 4-chlorophenol (4.4 g, 33.6 mmol) in dimethylsulfoxide (30 mL) was added sodium hydride (1.34 g, 33.6 mmol, 60% in oil), and the solution was stirred at room temperature for 10 minutes. 5-Nitrofuran-2-carbaldehyde (4.0 g, 28 mmol) was added to this reaction solution, and the solution was stirred at room temperature for 5 minutes. Water and ethyl acetate were added to the reaction solution, which was then partitioned, and the organic layer was washed with water 6 times. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane, then hexane:ethyl acetate=10:1, then 4:1), and the title compound (3.3 g, 14.9 mmol, 53.0%) was obtained as a yellow oil.

reactant | 4-chlorophenol | 33.6 mmol, 4.4 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydride | 33.6 mmol, 1.34 g | [H-].[Na+]
reactant | 5-Nitrofuran-2-carbaldehyde | 28 mmol, 4.0 g | [N+](=O)([O-])C1=CC=C(O1)C=O | C5H3NO4
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 5-(4-Chloro-phenoxy)-furan-2-carbaldehyde | 14.9 mmol, 3.3 g, 53.0% | ClC1=CC=C(OC2=CC=C(O2)C=O)C=C1 | C11H7ClO3
